US06762321B2
239 mg of 3-difluoromethoxy-N-[2-(4-hydroxy-3-methoxyphenyl)ethyl]-2-(5,6,7,8-tetrahydronaphthalen-2-yl)acrylamide (0.572 mmol), 128 mg (1.72 mmol) of 3-chloropropyne, 3 ml of anhydrous N,N-dimethylformamide and 20 mg (0.50 mmol) of 60% sodium hydride were mixed and stirred at room temperature for 4 hours. Water was added to the reaction mixture, which was followed by extracted with ethyl acetate, washed with 5% hydrochrolic acid, saturated aqueous sodium bicarbonate solution and saturated brine subsequently, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was subjected to silica gel column chromatography to give 225 mg of 3-difluoromethoxy-N-[2-{3-methoxy-4-(2-propynyloxy)phenyl}ethyl]-2-(5,6,7,8-tetrahydronaphthalen-2-yl)acrylamide (the present compound 1268).

reactant | 3-difluoromethoxy-N-[2-(4-hydroxy-3-methoxyphenyl)ethyl]-2-(5,6,7,8-tetrahydronaphthalen-2-yl)acrylamide | 0.572 mmol, 239 mg | FC(OC=C(C(=O)NCCC1=CC(=C(C=C1)O)OC)C1=CC=2CCCCC2C=C1)F | C23H25F2NO4
reactant | 3-chloropropyne | 1.72 mmol, 128 mg | ClCC#C | C3H3Cl
reactant | N,N-dimethylformamide | 3 ml | CN(C=O)C | C3H7NO
reactant | sodium hydride | 0.50 mmol, 20 mg | [H-].[Na+]
solvent | Water | O | H2O
product | 3-difluoromethoxy-N-[2-{3-methoxy-4-(2-propynyloxy)phenyl}ethyl]-2-(5,6,7,8-tetrahydronaphthalen-2-yl)acrylamide | 225 mg | FC(OC=C(C(=O)NCCC1=CC(=C(C=C1)OCC#C)OC)C1=CC=2CCCCC2C=C1)F | C26H27F2NO4
